US03959322
Reflux dl-13-ethyl-3-methoxy-6-methylgona-2,5(10)-dien-17β-ol (5.5 g) in toluene (200 cc) and cyclohexanone (70 cc) with aluminum isopropoxide (4.0 g) for 2.5 hours. Add water and anhydrous sodium sulfate, filter and isolate the crude product. Triturate with ice cold methanol to obtain dl-13-ethyl-3-methoxy-6-methylgona-2,5(10)-dien-17-one (3.6 g), m.p. 118°-125°, λ max. KBr 5.78 μ, 5.90 μ, 6.0 μ. An analytical sample recrystallized from methanol has m.p. 163°-166°.

reactant | 13-ethyl-3-methoxy-6-methylgona-2,5(10)-dien-17β-ol | 5.5 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1C(C2)C)OC)O | C21H32O2
reactant | cyclohexanone | 70 cc | C1(CCCCC1)=O | C6H10O
reactant | aluminum isopropoxide | 4.0 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
product | 13-ethyl-3-methoxy-6-methylgona-2,5(10)-dien-17-one | 3.6 g | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1C(C2)C)OC)=O | C21H30O2
